US07723368B2
Step 2: Synthesis of 2-(3-((4-(difluoromethoxy)phenyl)ethynyl)benzyl)furan
To a CEM snap top microwave vial (10 ml) equipped with a magnetic stir bar (3×10 mm) was added 2-(3-bromobenzyl)furan (385 mg, 1.62 mmol) in triethylamine (1.5 mL). Copper iodide (80 mg, 0.40 mmol), Tetrakis(triphenylphosphine) palladium (140 mg, 0.121 mmol) and 1-(difluoromethoxy)-4-ethynylbenzene (0.270 mg, 1.60 mmol) were added at room temperature. The reaction was capped and irradiated in a CEM Explorer microwave at 80° C. for 30 minutes then forced air-cooled. The crude material was loaded onto silica gel. Purification by chromatography (2% EtOAc in hexanes) afforded 0.317 gm of an oil (61%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.99 (s, 2H) 6.16 (dd, J=3.1, 0.8 Hz, 1H) 6.37 (dd, J=3.1, 2.0 Hz, 1H) 7.21 (d, J=8.8 Hz, 2H) 7.28 (ddd, J=7.5, 1.6, 1.6 Hz, 1H) 7.31 (t, J=73.7 Hz, 1H) 7.34-7.42 (m, 3H) 7.53 (dd, J=1.9, 0.7 Hz, 1H) 7.61 (d, J=9.0 Hz, 2H); MS (EI) m/z 324.0 [M+·].

reactant | 2-(3-bromobenzyl)furan | 1.62 mmol, 385 mg | BrC=1C=C(CC=2OC=CC2)C=CC1 | C11H9BrO
reactant | 1-(difluoromethoxy)-4-ethynylbenzene | 1.60 mmol, 0.270 mg | FC(OC1=CC=C(C=C1)C#C)F | C9H6F2O
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
catalyst | Copper iodide | 0.40 mmol, 80 mg | [Cu](I)I
catalyst | Tetrakis(triphenylphosphine) palladium | 0.121 mmol, 140 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(3-((4-(difluoromethoxy)phenyl)ethynyl)benzyl)furan | 0.317 gm, 61% | FC(OC1=CC=C(C=C1)C#CC=1C=C(CC=2OC=CC2)C=CC1)F | C20H14F2O2
